Trabalho 1 alinea 3
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

*valor das variaveis
.INCLUDE ngspice_data_3.txt

va 0 na 0V ; auxiliar voltage source

vs 1 0 {Vs}

R1 1 2 {R1}
R2 2 3 {R2}
R3 2 5 {R3}
R4 0 5 {R4}
R5 5 6 {R5}
R6 na 7 {R6}
R7 7 8 {R7}

Gb 6 3 2 5 {Kb} ; current source
Hd 5 8 va {Kd} ; voltage source

C 6 8 {C1} 
.ic v(6) = {V6in}
.ic v(8)= {V8in}


.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


op


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3 

hardcopy trans_alinea3.ps v(6)
echo trans_alinea3_FIG

quit
.endc

.end